US07855194B2
Step 2: 1-(4-Chloro-3-ethoxy-benzyl)-piperidin-4-ylamine (Intermediate A2)
A solution of [1-(4-chloro-3-ethoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.78 g, 2.12 mmol) in ethanol (10 mL) and 4 M HCl (15 mL) was stirred at rt for 2 h. The hydrochloric acid was removed under reduced pressure and the crude reaction product extracted from a solution of 1 M NaOH (50 mL) with ethyl acetate (3×50 mL). The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure yielding 0.32 g (57%) of a white solid. The crude material was directly used in the following reaction step without further purification. MS (ISP): 269.0 [M+H]+.

reactant | [1-(4-chloro-3-ethoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 2.12 mmol, 0.78 g | C(C)(C)(C)OC(NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)OCC)=O | C19H29ClN2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | HCl | 4 M, 15 mL | Cl | ClH
product | 1-(4-Chloro-3-ethoxy-benzyl)-piperidin-4-ylamine | 0.32 g, 57% | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
